US05972975
EXAMPLE 46 2-Amino-5-acetamidomethyl-4-methylpyridine
To a solution of 2-amino-5-aminomethyl-4-methylpyridine dihydrochloride (70 mg, 0.333 mmol) in methanol (2 mL) were added triethylamine (93 uL, 0.667 mmol) and acetic anhydride (47 uL, 0.498 mmol). The reaction mixture was stirred for 2 h at room temperature and then evaporated. The residue was chromatographed on silica gel (10% methanol/methylene chloride) to afford pure title compound.

reactant | 2-amino-5-aminomethyl-4-methylpyridine dihydrochloride | 0.333 mmol, 70 mg | Cl.Cl.NC1=NC=C(C(=C1)C)CN
reactant | triethylamine | 0.667 mmol, 93 uL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.498 mmol, 47 uL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 2 mL | CO | CH4O
product | 2-Amino-5-acetamidomethyl-4-methylpyridine | NC1=NC=C(C(=C1)C)CNC(C)=O | C9H13N3O
